US05066819
2-SEC BUTYLPHENYL N-METHYLCARBAMATE
To a solution of 2-sec butylphenol (1.5 g, 0.01 mole) and ethyl N-methylcarbamate (1.03 g, 0.01 mole), along with phosphorus pentachloride (1.05 g, 0.05 mole) in toluene (10 ml) was stirred at 28° C. and afterwards it was refluxed for 7 hours and worked up as usual to get the title compound.

reactant | butylphenol | 0.01 mole, 1.5 g | C(CCC)C1=C(C=CC=C1)O | C10H14O
reactant | ethyl N-methylcarbamate | 0.01 mole, 1.03 g | CNC(OCC)=O | C4H9NO2
reactant | phosphorus pentachloride | 0.05 mole, 1.05 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-SEC BUTYLPHENYL N-METHYLCARBAMATE | CNC(OC1=C(C=CC=C1)C(C)CC)=O | C12H17NO2
